US07423030B2
4-Hydroxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
A solution of 120 mg of 4-benzyloxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine in 4 mL of dichloromethane is stirred under nitrogen at 0° C., followed by dropwise addition of 2.3 mL of a molar solution of boron trichloride in dichloromethane. The reaction medium is stirred for 1 hour at 0° C. and then for 30 minutes at room temperature. It is hydrolysed with aqueous sodium bicarbonate solution and extracted with dichloromethane. The organic phase is washed with water, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue is purified on a column of silica (eluent: 100/0 to 85/15 v/v dichloromethane/methanol). 58 mg of product are obtained in the form of a beige-coloured powder.

reactant | 4-benzyloxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | 120 mg | C(C1=CC=CC=C1)OCC1=NN=C(C2=CC(=CC=C12)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C33H34N4O2
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-Hydroxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | 58 mg | OCC1=NN=C(C2=CC(=CC=C12)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C26H28N4O2
